US04876257
4-[3-[4-[Bis(4-fluorophenyl)methyl]piperazin-1-yl]-2-hydroxypropylamino]purine
A mixture of 6-chloropurine (0.728 g, 4.7 mmol), 1-amino-3-[4-[bis(4-fluorophenyl)methyl]-1-piperazinyl]-2-propanol (1.73 g, 4.77 mmol) and triethylamine (1.36 mL, 9.5 mmol) in MeOH (20 mL) was heated to reflux for 7 days and the solvent was removed in vacuo. The residue was dissolved in CHCl3 and the extracted with aqueous sodium bicarbonate (2×100 mL); the organic phase was dried over sodium sulfate and evaporated to give a solid which was purified by flash chromatography on silica gel with 5% MeOH in CHCl3. The product was a colorless solid which was triturated with ether, 1.5 g (70%), mp 140°-170° C.; IR (KBr) 3000 cm-1 ; 300 MHz 1H NMR (CDCl3); δ: 8.17 (s, 1H), 8.11 (s, 1H), 7.5-7.0 (m, 8H), 4.90 (br s, 1H), 4.34 (s, 1H), 3.87 (br s, 1H), 3.7-2.0 (m, 12H); MS 480 (MH+).

reactant | 6-chloropurine | 4.7 mmol, 0.728 g | ClC1=C2NC=NC2=NC=N1 | C5H3ClN4
reactant | 1-amino-3-[4-[bis(4-fluorophenyl)methyl]-1-piperazinyl]-2-propanol | 4.77 mmol, 1.73 g | NCC(CN1CCN(CC1)C(C1=CC=C(C=C1)F)C1=CC=C(C=C1)F)O | C20H25F2N3O
reactant | triethylamine | 9.5 mmol, 1.36 mL | C(C)N(CC)CC | C6H15N
solvent | MeOH | 20 mL | CO | CH4O
product | 4-[3-[4-[Bis(4-fluorophenyl)methyl]piperazin-1-yl]-2-hydroxypropylamino]purine | FC1=CC=C(C=C1)C(N1CCN(CC1)CC(CNC12N=CN=CC2=NC=N1)O)C1=CC=C(C=C1)F | C25H27F2N7O
